US05223525
Preparation of 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-chloro-4-trifluoromethylsulfenylimidazole
To a solution of 2.0 g (4.64 mmole) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-amino-2-chloro-4-trifluoromethylsulfenylimidazole in 40 ml of tetrahydrofuran was added 2.76 ml (23.2 mmole) of t-butylnitrite. The resulting mixture was heated to reflux under a nitrogen atmosphere for 2 h. The mixture was evaporated to dryness and the residue was purified by column chromatography using 10% ethyl acetate in hexane to give 1.6 g (83.0% yield) of the desired product, mp 112° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-amino-2-chloro-4-trifluoromethylsulfenylimidazole | 4.64 mmole, 2.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=NC(=C1N)SC(F)(F)F)Cl | C11H4Cl3F6N3S
reactant | t-butylnitrite | 23.2 mmole, 2.76 ml | C(C)(C)(C)ON=O | C4H9NO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-chloro-4-trifluoromethylsulfenylimidazole | 1.6 g, 83.0% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=NC(=C1)SC(F)(F)F)Cl | C11H3Cl3F6N2S
